US05591852
(S)-Triphenylmethoxymethyloxirane
A 5 L 3-neck round bottom flask was charged with trityl chloride (133.8 g, 0.48 mol) and methylene chloride (400 ml). It was cooled to 0° C. under N2 and treated with triethylamine (70.7 g, 0.70 mol). After an hour of stirring at 0° C., a solution of (R)-glycidol (88% ee, 37.03 g, 0.5 mol) in methylene chloride (100 ml) was added over 0.75 hour. The resulting solution was allowed to warm to ambient temperature and was stirred for 3 hours. It was then filtered, and the filtrate was washed with water (2×500 ml) and brine (2×500 ml). The organic phase was dried over MgSO4 and concentrated to a foam, which on crystallization from isopropyl alcohol gave the title compound (116.2 g, 76.5%) as an off-white powder.

reactant | trityl chloride | 0.48 mol, 133.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 0.70 mol, 70.7 g | C(C)N(CC)CC | C6H15N
reactant | (R)-glycidol | 0.5 mol, 37.03 g | C1[C@H](O1)CO | C3H6O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | (S)-Triphenylmethoxymethyloxirane | 116.2 g, 76.5% | C1(=CC=CC=C1)C(OC[C@H]1OC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H20O2
